US05093332
Borane dimethylsulfide in THF (4.4 ml, 10M, 44 mmol) was added slowly to a solution of 2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine (2.5 g, 8.9 mmol) in THF (10 ml) at 0° C. The reaction mixture was warmed to ambient temperature and stirred for an addidition hour. Excess borane was destroyed by the addition of 6N HCl and borane adducts were cleaved by heating at reflux for one hr. The solvent was removed and the residue was partitioned between water and ethyl acetate. The organic phase was washed with water and brine then dried over sodium sulfate. After filtration and evaporation of the solvent, the residue was chromatographed over silica gel with CHCl3 /MeOH/NH4OH (80:20:2). Fractions containing the desired product were combined, evaporated and the solid residue was triturated with ethyl acetate to yield 0.36 g 2,3-dihydro-4,4-dioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine, mp 250°-252° C.

reactant | Borane dimethylsulfide | CSC.B
reactant | 2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine | 8.9 mmol, 2.5 g | O=C1NC2=C(S(C1)(=O)=O)SC(=C2)S(N)(=O)=O | C6H6N2O5S3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 44 mmol, 10M, 4.4 ml | C1CCOC1 | C4H8O
product | 2,3-dihydro-4,4-dioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine | 0.36 g | O=S1(C2=C(NCC1)C=C(S2)S(N)(=O)=O)=O | C6H8N2O4S3
